US04036977
N-[4-(1-Adamantyloxy)-3-chlorophenyl]-pyrrolidine
1.7 g. (0.00612 Mole) of 4-(1-adamantyloxy)-3-chloroaniline, 1.32 g. (0.00612 mole) of 1,4 -dibromobutane and 1.86 g. (0.0135 mole) of potassium carbonate were combined in 50 ml. of absolute ethanol and refluxed for 18 hours.

reactant | 4-(1-adamantyloxy)-3-chloroaniline | 0.00612 Mole | C12(CC3CC(CC(C1)C3)C2)OC2=C(C=C(N)C=C2)Cl | C16H20ClNO
reactant | 1,4 -dibromobutane | 0.00612 mole | BrCCCCBr | C4H8Br2
reactant | potassium carbonate | 0.0135 mole | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
product | N-[4-(1-Adamantyloxy)-3-chlorophenyl]-pyrrolidine | C12(CC3CC(CC(C1)C3)C2)OC2=C(C=C(C=C2)N2CCCC2)Cl | C20H26ClNO
